US05130428
2-Amino-4-ethoxy-6-trifluoromethyl-1,3,5-triazine
20.0 g (71 mmol) of 2-amino-4-trichloromethyl-6-trifluoromethyl-1,3,5-triazine were added at 22° C. to a solution of 0.48 g (7.1 mmol) of sodium ethanolate in 100 ml of ethanol. The pale yellowish green solution was then refluxed for 30 minutes and, after cooling to 20° C., 20 ml of water were added and the mixture was neutralized with 2 normal hydrochloric acid. After this, most of the solvent was removed at 40° C. under reduced pressure, adding 100 ml of water a little at a time so that the solid did not agglomerate. The product was isolated in a similar manner to Example 2.

reactant | 2-amino-4-trichloromethyl-6-trifluoromethyl-1,3,5-triazine | 71 mmol, 20.0 g | NC1=NC(=NC(=N1)C(Cl)(Cl)Cl)C(F)(F)F | C5H2Cl3F3N4
reactant | sodium ethanolate | 7.1 mmol, 0.48 g | C(C)[O-].[Na+]
reactant | water | 20 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Amino-4-ethoxy-6-trifluoromethyl-1,3,5-triazine | NC1=NC(=NC(=N1)OCC)C(F)(F)F | C6H7F3N4O
